US04985444
A solution of 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)-2-hydroxyiminopropionic acid (0.20 g) in acetic anhydride (1 ml) was stirred for an hour at 80° C. After cooling, to the mixture was added water (10 ml). The resulting precipitates were collected by filtration to give 2-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acetonitrile (0.10 g).

reactant | 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)-2-hydroxyiminopropionic acid | 0.20 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1CC(C(=O)O)=NO | C16H13N3O3
reactant | water | 10 ml | O | H2O
solvent | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acetonitrile | 0.10 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1CC#N | C15H11N3
